US07595359B2
{3-[2,6-Diethyl-2,3,6-trimethyl-1-(1-phenyl-ethoxy)-piperidine-4-ylidene-aminooxy]-propyl}ethyl-dimethyl-ammonium-bromide (Compound 106, Table 1)
Ethylbromide (7.5 ml) is added to a solution of 2,6-diethyl-2,3,6-trimethyl-1-(1-phenyl-ethoxy)-piperidine-4-one-O-(3-dimethylamino-propyl)-oxime (10.2 g, 0.0244 mol) in acetonitrile (12 ml). The solution is stirred 24 h at room temperature and is then evaporated. The residue is dissolved in dichloromethane, dried over MgSO4 and evaporated to afford 11.5 g of the title compound as a white powder.

reactant | Ethylbromide | 7.5 ml | C(C)Br | C2H5Br
reactant | 2,6-diethyl-2,3,6-trimethyl-1-(1-phenyl-ethoxy)-piperidine-4-one-O-(3-dimethylamino-propyl)-oxime | 0.0244 mol, 10.2 g | CN(CCCON=C1C(C(N(C(C1)(C)CC)OC(C)C1=CC=CC=C1)(C)CC)C)C | C25H43N3O2
solvent | acetonitrile | 12 ml | C(C)#N | C2H3N
product | {3-[2,6-Diethyl-2,3,6-trimethyl-1-(1-phenyl-ethoxy)-piperidine-4-ylidene-aminooxy]-propyl}ethyl-dimethyl-ammonium-bromide | 11.5 g | [Br-].C(C)C1(N(C(CC(C1C)=NOCCC[N+](C)(C)CC)(C)CC)OC(C)C1=CC=CC=C1)C | InChI=1S/C27H48N3O2.BrH/c1-10-26(6)21-25(28-31-20-16-19-30(8,9)12-3)22(4)27(7,11-2)29(26)32-23(5)24-17-14-13-15-18-24;/h13-15,17-18,22-23H,10-12,16,19-21H2,1-9H3;1H/q+1;/p-1
